US07473783B2
To a solution of ethyl 5-(chloromethyl)-2-furan-carboxylate (0.5 mL, 3.25 mmol) and Et3N (0.9 mL, 6.5 mmol) in dichloromethane under nitrogen was added morpholine (284 μL, 3.25 mmol) dropwise and a catalytic amount of KI. The reaction mixture was stirred at 45° C. for 24 hours, then it was concentrated in vacuo. The residue was dissolved in EtOAc and the organic layer was washed with water (2×) then brine, dried over sodium sulfate, filtered, concentrated, and dried in vacuo to give 520 mg (67% yield) of 5-morpholin-4-ylmethyl-furan-2-carboxylic acid ethyl ester as a light brown oil. 1H-NMR (d6-DMSO) δ: 7.22 (d, 1H), 6.51 (d, 1H), 4.25 (q, 2H), 3.54 (m, 6H), 2.37 (broad s, 4H), 1.27 (t, 3H).

reactant | ethyl 5-(chloromethyl)-2-furan-carboxylate | 3.25 mmol, 0.5 mL | ClCC1=CC=C(O1)C(=O)OCC | C8H9ClO3
reactant | Et3N | 6.5 mmol, 0.9 mL | CCN(CC)CC | C6H15N
reactant | morpholine | 3.25 mmol, 284 μL | N1CCOCC1 | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-morpholin-4-ylmethyl-furan-2-carboxylic acid ethyl ester | 520 mg, 67% yield | C(C)OC(=O)C=1OC(=CC1)CN1CCOCC1 | C12H17NO4
